US07678917B2
To a stirred solution of (1SR,3SR,4RS)-3-cyano-4-hydroxy-cyclopentanecarboxylic acid methyl ester (185 mg) at r.t. in methanol (5 ml) under an argon atmosphere were added benzyl chloride (0.38 ml) and 10% Pd/C (50 mg). The mixture was stirred at r.t. under a hydrogen atmosphere (balloon) overnight. The catalyst was filtered off and washed with methanol. The filtrate was concentrated to leave a brown viscous oil. This was taken up in 10 ml sat. aq. NaHCO3 and extracted with CH2Cl2/MeOH 9:1 (3×10 ml) and CH2Cl2/MeOH 4:1 (10 ml). A white solid started to precipitate out of the biphasic mixture which was filtered off. The filtrate was neutralized by the addition of 1 N HCl and concentrated to leave crude (1SR,3SR,4RS)-3-aminomethyl-4-hydroxy-cyclopentane-carboxylic acid methyl ester as a light brown solid (189 mg).

reactant | (1SR,3SR,4RS)-3-cyano-4-hydroxy-cyclopentanecarboxylic acid methyl ester | 185 mg | COC(=O)C1CC(C(C1)O)C#N | C8H11NO3
reactant | benzyl chloride | 0.38 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | methanol | 5 ml | CO | CH4O
solvent | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | (1SR,3SR,4RS)-3-aminomethyl-4-hydroxy-cyclopentane-carboxylic acid methyl ester | 189 mg | COC(=O)C1CC(C(C1)O)CN | C8H15NO3
